US07691841B2
N-[1-(3,4-Dichloro-benzyl)-azetidin-3-ylmethyl]-2-(4-methoxy-benzenesulfonylamino)-acetamide
A solution of 2-Amino-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide (1 M equivalent) in dimethylformamide is treated with a solution triethylamine (3 M equivalents) followed by a solution of the sulphonyl chloride (1.5 M equivalents) in dimethylformamide and left at ambient temperature overnight. The reaction mixture is diluted with chloroform/methanol 50:50 and applied to a SCX-3 1 g cartridge. The cartridge is washed with chloroform methanol 50:50, and the compound eluted with a solution of 10% ammonia in methanol. The solvent is evaporated to afford the title compound.

reactant | 2-Amino-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide | 1 M | NCC(=O)NCC1CN(C1)CC1=CC(=C(C=C1)Cl)Cl | C13H17Cl2N3O
reactant | triethylamine | 3 M | C(C)N(CC)CC | C6H15N
reactant | sulphonyl chloride | 1.5 M | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | N-[1-(3,4-Dichloro-benzyl)-azetidin-3-ylmethyl]-2-(4-methoxy-benzenesulfonylamino)-acetamide | ClC=1C=C(CN2CC(C2)CNC(CNS(=O)(=O)C2=CC=C(C=C2)OC)=O)C=CC1Cl | C20H23Cl2N3O4S
